US07820675B2
tert-Butyl 3-methylenepiperidine-1-carboxylate
The title compound was prepared according to the procedure of Intermediate 71 starting from tert-butyl 3-oxopiperidine-1-carboxylate (1 g, 5.0 mmol), triphenylphosphonium bromide (2.69 g, 7.5 mmol) and n-BuLi (1.8 M; 4.2 mL, 7.5 mmol). Yield: 0.28 g (28%) after purification by flash chromatography with 10% isohexane in DCM as eluent. HPLC purity 95%, RT=2.43 min (System A; 10-97% MeCN over 3 min); 90%, RT=2.38 min (System B; 10-97% MeCN over 3 min). 1H NMR (400 MHz, CDCl3) δ ppm 1.41-1.48 (m, 9H) 1.56-1.65 (m, 2H) 2.20-2.30 (m, 2H) 3.38-3.47 (m, 2H) 3.86 (s, 2H) 4.74 (s, 1H) 4.80 (s, 1H). MS (ESI+) for C11H19NO2 m/z 142 (M-C4H8)+. *Previously reported in Tetrahedron 2002, 58, 7165-7175.

reactant | tert-butyl 3-oxopiperidine-1-carboxylate | 5.0 mmol, 1 g | O=C1CN(CCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | triphenylphosphonium bromide | 7.5 mmol, 2.69 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 7.5 mmol, 1.8 M, 4.2 mL | [Li]CCCC
product | tert-Butyl 3-methylenepiperidine-1-carboxylate | C=C1CN(CCC1)C(=O)OC(C)(C)C | C11H19NO2
